US05286732
STAGE A: 3,3-Dicyclopropylpropionitrile
209 g of 2,2-dicyclopropylethanol tosylate (prepared from 2,2-dicyclopropylethanol and para-toluenesulfonyl chloride) in solution in 45 ml of DMSO, are slowly added to 40 g of sodium cyanide in 45 ml of dimethyl sulfoxide (DMSO), with stirring and at 95° C. The heating is continued for one hour. After filtration of the precipitate and washing with ethyl ether, the filtrates are pooled, washed with a saturated solution of sodium chloride, dried and evaporated. The expected product is obtained after distillation under vacuum.

reactant | 2,2-dicyclopropylethanol tosylate | 209 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC(C1CC1)C1CC1 | C15H20O3S
reactant | sodium cyanide | 40 g | [C-]#N.[Na+]
solvent | DMSO | 45 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 45 ml | CS(=O)C | C2H6OS
product | 3,3-Dicyclopropylpropionitrile | Yield: 90% | C1(CC1)C(CC#N)C1CC1 | C9H13N
